US05302592
Cis and trans-4-(2-mercaptothiazolinyl)-3-buten-2-one (Coumpounds 36 and 37)
To a stirred solution of 2-mercaptothiazoline (3.7 g., 0.03 mole) in aqueous ethanol (35 ml) at 35° C., a solution of 3-butyn-2-one (2.0 g., 0.03 mole) in ethanol (10 ml) was added dropwise over 10 minutes. The resulting solution was refluxed for 2 hours and stirred at ambient temperature for 18 hours. The volatiles were removed in vacuo and the residue was extracted into ethyl acetate and washed thoroughly with water. After drying (MgSO4), the solution was concentrated to an amber oil consisting of the cis and trans isomers. Purification and isolation of the isomers was accomplished via column chromatography on silica gel using hexanes/ethyl acetate (4:1), yielding 2.7 g cis-isomer as a white solid, mp 69°-72° C. IR.(nujol) uc=o 1660 cm-1. The trans-isomer was recovered as an amber oil, 0.2 g IR (neat) uc=o 1660 cm-1.

reactant | 2-mercaptothiazoline | 0.03 mole, 3.7 g | SC=1SCCN1 | C3H5NS2
reactant | 3-butyn-2-one | 0.03 mole, 2.0 g | CC(C#C)=O | C4H4O
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | trans-4-(2-mercaptothiazolinyl)-3-buten-2-one | SC1(SCC=N1)/C=C/C(C)=O | C7H9NOS2
